Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest tightness
 
Major Surgical or Invasive Procedure:
___
Aortic valve replacement with a 25 mm
___ Epic tissue valve

 
History of Present Illness:
Mr. ___ is a delightful ___ year old man with a history of
aortic stenosis, asthma, hyperlipidemia, and hypertension. An
echocardiogram in ___ demonstrated moderate aortic stenosis
with an aortic valve area of 1.2 cm2. At a recent podiatry
appointment he reported feeling faint. His blood pressure was
significantly elevated and he was transferred to the emergency
department for further evaluation. His troponin was borderline
and he was referred for cardiac catheterization which revealed 
no
flow-limiting coronary artery disease and severe aortic stenosis
with an aortic valve area of 0.9 cm2. Given this finding he was
referred to Dr. ___ surgical consultation.

He noted some episodes of chest tightness. He denied syncope,
dizziness, lightheadedness, shortness of breath, dyspnea on
exertion, palpitations, orthopnea, paroxysmal nocturnal dyspnea,
or lower extremity edema. 

 
Past Medical History:
Anxiety
Aortic Stenosis
Asthma
Chronic Low Back Pain
Colon Polyps
Fall as a child s/p metal plate in head
Gastroesophageal Reflux Disease 
Headaches
Hearing Loss
Hyperlipidemia
Hypertension
Nerve Injury, left hand following trauma
Obesity
Squamous Cell Carcinoma
 
Social History:
___
Family History:
Mother - history of emphysema, died of CHF at age ___
Father - died at age ___
Siblings - estranged, sister has diabetes ___ 

 
Physical Exam:
Vital Signs sheet entries for ___: 
BP: 153/89. HR: 72. O2 Sat%: 98 (RA). RR: 17. Pain Score: 0.
Height: 68 in    Weight: 200 lbs 

General: Pleasant man, WDWN, NAD
Skin: Warm, dry, intact
HEENT: NCAT, PERRLA, EOMI, OP benign 
Neck:  Supple, full ROM 
Chest: Lungs clear bilaterally 
Heart: Regular rate and rhythm, III/VI SEM heard best at LUSB
Abdomen: Ventral hernia. Well-healed laproscopic incisions.
Normal BS, soft, non-distended, non-tender 
Extremities: Warm, well-perfused, trace edema 
Varicosities: None
Neuro: Grossly intact 
Pulses:
DP           Right: 1+  Left: 1+
___           Right: 1+  Left: 1+
Radial       Right: 2+  Left: 2+

Carotid Bruit: transmitted murmur vs. bruit

 
Pertinent Results:
___ TEE
Conclusions   
 There is mild symmetric left ventricular hypertrophy. Regional 
left ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size is normal with normal free wall contractility. The 
ascending, transverse and descending thoracic aorta are normal 
in diameter and free of atherosclerotic plaque . There is severe 
aortic valve stenosis (valve area <1.0cm2). No aortic 
regurgitation is seen. Trivial mitral regurgitation is seen. 
There is no pericardial effusion. 
 Post bypass
 The aortic valve is well seated with no paravalvular 
regurgitation.The biventricular function is normal The thoracic 
aorta is intact.The rest of the exm is unchanged   
.

___ 03:39AM BLOOD WBC-10.7* RBC-3.39* Hgb-10.5* Hct-31.2* 
MCV-92 MCH-31.0 MCHC-33.7 RDW-13.6 RDWSD-45.9 Plt ___
___ 11:44AM BLOOD WBC-18.3* RBC-3.09* Hgb-9.7* Hct-28.5* 
MCV-92 MCH-31.4 MCHC-34.0 RDW-13.2 RDWSD-44.6 Plt ___
___ 04:07AM BLOOD ___ PTT-26.0 ___
___ 03:39AM BLOOD Glucose-109* UreaN-11 Creat-0.7 Na-143 
K-4.5 Cl-108 HCO3-22 AnGap-13
___ 04:07AM BLOOD Glucose-110* UreaN-14 Creat-0.7 Na-141 
K-3.8 Cl-103 HCO3-28 AnGap-10
___ 03:39AM BLOOD Mg-1.8
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent AVR (25mm ___ tissue) with Dr. 
___.  Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  
 POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was hemodynamically stable.  
He did demonstrate delirium in the immediate post-op days.  
Zyprexa was added for agitation with good effect.  Narcotics 
discontinued. Neurology consulted.  Head CT negative.  Symptoms 
resolved and he returned to his baseline neuro status prior to 
discharge. 
 Beta blocker was initiated and the patient was gently diuresed 
toward the preoperative weight.  The patient was transferred to 
the telemetry floor for further recovery.  Chest tubes and 
pacing wires were discontinued without complication.  The 
patient was evaluated by the Physical Therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD 4 the patient was ambulating freely, the wound was 
healing and pain was controlled with oral analgesics.  The 
patient was discharged home in good condition with appropriate 
follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
2. DiphenhydrAMINE 50 mg PO Q6H:PRN sinus congestion 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
QID:PRN 
5. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
6. Nefazodone 100 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Pravastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
2.  Furosemide 20 mg PO DAILY Duration: 7 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0 
3.  Metoprolol Tartrate 12.5 mg PO TID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
three times a day Disp #*60 Tablet Refills:*1 
4.  Potassium Chloride 20 mEq PO DAILY 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*7 Tablet Refills:*0 
5.  Senna 17.2 mg PO DAILY 
RX *sennosides [senna] 8.6 mg 2 by mouth daily Disp #*30 Tablet 
Refills:*0 
6.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
7.  DiphenhydrAMINE 50 mg PO Q6H:PRN sinus congestion  
8.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
9.  Nefazodone 100 mg PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  Pravastatin 40 mg PO QPM  
12.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
QID:PRN  
13.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Anxiety
Aortic Stenosis
Asthma
Chronic Low Back Pain
Colon Polyps
Fall as a child s/p metal plate in head
Gastroesophageal Reflux Disease 
Headaches
Hearing Loss
Hyperlipidemia
Hypertension
Nerve Injury, left hand following trauma
Obesity
Squamous Cell Carcinoma 
Past Surgical History:
___ Procedure
Tranverse Colectomy and Umbilical Hernia Repair ___

 
Discharge Condition:
Alert and oriented x3, non-focal
 Ambulating, gait steady
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage

Edema- trace

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___